US08859591B2
Lithium hydroxide (1.0 mL, 1N in water, 1.0 mmol) was added to a room temperature solution of methyl 4-(1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenoxy)butyl)benzoate (95 mg, 0.23 mmol) in tetrahydrofuran (2 mL). The solution was stirred at ambient temperature for 18 hours, then at reflux for 2 hours. The mixture was cooled to room temperature and acidified to pH=2 with 1N HCl. The mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated to give (+/−)-4-(1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenoxy)butyl)benzoic acid (80 mg, 87%). 1H NMR (400 MHz, CDCl3, δ): 8.09-8.04 (m, 2H), 7.71 (s, 1H), 7.46-7.41 (m, 3H), 7.20-7.14 (m, 2H), 6.92-6.87 (m, 2H), 5.20-5.14 (m, 1H), 2.08-1.95 (m, 1H), 1.88-1.76 (m, 1H), 1.62-1.36 (m, 2H), 1.01-0.92 (m, 3H).

reactant | Lithium hydroxide | 1.0 mmol, 1N, 1.0 mL | [OH-].[Li+]
reactant | methyl 4-(1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenoxy)butyl)benzoate | 0.23 mmol, 95 mg | FC(C=1N=CN(C1)C1=CC=C(OC(CCC)C2=CC=C(C(=O)OC)C=C2)C=C1)(F)F | C22H21F3N2O3
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (+/−)-4-(1-(4-(4-(trifluoromethyl)-1H-imidazol-1-yl)phenoxy)butyl)benzoic acid | 80 mg, 87% | FC(C=1N=CN(C1)C1=CC=C(OC(CCC)C2=CC=C(C(=O)O)C=C2)C=C1)(F)F | C21H19F3N2O3
